US08067592B2
Triethylamine (1.84 ml) was added to a stirred solution of 4-amino-4-methyl-pent-2-yne hydrochloride (1.278 g) in DMF (5 ml) giving a white suspension. Methylthioacetic acid (1.0 g) in DMF (5 ml) was then added to the amine followed by the HOBT (1.27 g) and finally EDC (1.806 g). The white suspension was stirred at ambient temperature for 6 hours, and stored for 18 hours. Water was added and the aqueous phase was extracted with diethyl ether. The organic phases were combined, washed with water and dried over magnesium sulphate then filtered and evaporated to give 2-(methylthio)-N-(2-methylpent-3-yn-2-yl) acetamide as a yellow orange solid (1.9 g).

reactant | Triethylamine | 1.84 ml | C(C)N(CC)CC | C6H15N
reactant | 4-amino-4-methyl-pent-2-yne hydrochloride | 1.278 g | Cl.NC(C#CC)(C)C
reactant | Methylthioacetic acid | 1.0 g | CCC(=S)O | C3H6OS
reactant | HOBT | 1.27 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
solvent | EDC | 1.806 g
product | 2-(methylthio)-N-(2-methylpent-3-yn-2-yl) acetamide | 1.9 g | CSCC(=O)NC(C)(C#CC)C | C9H15NOS
